US07160875B2
(S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid was coupled with 3,3,4,4,4-pentafluoro-butylamine in analogy to the procedure described for example 73 to yield (R)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-N′-(3,3,4,4,4-pentafluoro-butyl)-malonamide as white solid.

reactant | (S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid | C1(CC1)CN1C2=C(C3=C([C@@H](C1=O)NC([C@](C(=O)O)(C)F)=O)C=CC=C3)C=CC=C2 | C22H21FN2O4
reactant | 3,3,4,4,4-pentafluoro-butylamine | FC(CCN)(C(F)(F)F)F | C4H6F5N
product | (R)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-N′-(3,3,4,4,4-pentafluoro-butyl)-malonamide | C1(CC1)CN1C2=C(C3=C([C@@H](C1=O)NC([C@](C(=O)NCCC(C(F)(F)F)(F)F)(C)F)=O)C=CC=C3)C=CC=C2 | C26H25F6N3O3
